US09422312B2
Step 1: N′-(4-Bromophenyl)-N-(propan-2-yl)-methanesulfonimidamide
The title compound is prepared from N-(4-bromophenyl)methanesulfinamide and isopropylamine following a procedure analogous to that described for Intermediate 3 (Step 2). LC (method 1): tR=0.96 min; Mass spectrum (ESI+): m/z=291, 293 [M+H]+.

reactant | N-(4-bromophenyl)methanesulfinamide | BrC1=CC=C(C=C1)NS(=O)C | C7H8BrNOS
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N′-(4-Bromophenyl)-N-(propan-2-yl)-methanesulfonimidamide | BrC1=CC=C(C=C1)N=S(=O)(NC(C)C)C | C10H15BrN2OS
